* ========================
* cmos inverter simulation
* ========================

* =========
* constants
* =========

.param voltage = 1.0V
.param pmos_width = 360nm
.param nmos_width = 180nm
.param pmos_length = 90nm
.param nmos_length = 90nm
.param load_capacitance = 1fF

* ==============
* power supplies
* ==============

vdd vdd 0 dc {voltage}

* =====================
* 2. input pulse source
* =====================

vin in 0 pulse(0 {voltage} 5ps 100ps 100ps 2ns 4ns)

* ==============
* 3. transistors
* ==============

mp out in vdd vdd pmos l={pmos_length} w={pmos_width}

mn out in 0 0 nmos l={nmos_length} w={nmos_width}

* ===================
* 4. load capacitance
* ===================

cload out 0 {load_capacitance}

* ================
* 5. mosfet models
* ================

.include models/90nm.pm

* ======================
* 6. simulation commands
* ======================

* =======================
* 7. measurement commands
* =======================

* ==========================
* 8. save nodes for plotting
* ==========================

.control
    tran 5fs 4ns

    meas tran tplh trig v(in) val=0.5 fall=1 targ v(out) val=0.5 rise=1
    meas tran tphl trig v(in) val=0.5 rise=1 targ v(out) val=0.5 fall=1
    let td = ((tplh + tphl) / 2) * 1e9
    set unit = ns 
    echo "td                  =  $&td$unit"

    set wr_singlescale
    set wr_vecnames
    wrdata plot/vxt.txt v(in) v(out)
.endc
.end
